US08580957B2
A mixture of phenylmethyl[(4-bromophenyl)methyl]methylcarbamate (for a preparation see intermediate 83) (8.6 g, 25.7 mmol) was mixed with bis(pinacolato)diboron (16.99 g, 66.9 mmol), potassium acetate (4.90 g, 49.9 mmol) and bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.224 g, 1.673 mmol in dimethyl sulfoxide (DMSO) (100 mL) was stirred under nitrogen at 80° C. for 16 h then cooled to room temperature and partitioned between water (50 mL) and DCM (100 mL). The layers were separated and the aqueous phase was extracted with DCM (50 mL). The combined organic phases were washed with brine (40 mL), dried over MgSO4 and concentrated in vacuovacuo. The residue was dissolved in AcOEt (500 mL) and the organic phase was washed with water (3×100 mL), dried over MgSO4 and concentrated in vacuovacuo. Purification of the residue by flash chromatography on silica gel (gradient:0 to 20% AcOEt in Hexanes) gave phenylmethyl methyl{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate (4.65 g, 12.1 mmol, 44%) as a colourless oil.

reactant | phenylmethyl[(4-bromophenyl)methyl]methylcarbamate | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)Br)=O | C16H16BrNO2
reactant | bis(pinacolato)diboron | 66.9 mmol, 16.99 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 49.9 mmol, 4.90 g | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | Cl[Pd]Cl
product | phenylmethyl methyl{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate | 12.1 mmol, 4.65 g, 44% | CN(C(OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H28BNO4
